US07572801B2
Ethyl iodoacetate (340 μg, 12.9 mmol) was added to an ice cold solution of 2-(2,5-difluoro-phenyl)-ethanol (500 mg, 2.4 mmol), silver trifluoromethanesulfonate (685 mg, 2.7 mmol) and 2,6-di-tert-butylpyridin (820 μl, 3.6 mmol) in dichloromethane (5 ml). The reaction mixture was stirred at ambient temperature for 14 h, diluted with dichloromethane and filtered over speedex. Ice water/0.1 N aqueous HCl 1/1 was added to the filtrate and the filtrate was extracted two times with dichloromethane. The combined extracts were washed with aqueous NaHCO3 solution and brine and dried over sodium sulfate. Removal of the solvent under reduced pressure left a colorless oil which was purified by column chromatography (silica gel, isopropyl acetate/heptane) to give [2-(2,5-difluoro-phenyl)-ethoxy]-acetic acid ethyl ester (320 mg, 1.3 mmol; 54%) as colorless oil. MS: m/e=245.0 [M+H+].

reactant | Ethyl iodoacetate | 12.9 mmol, 340 μg | ICC(=O)OCC | C4H7IO2
reactant | 2-(2,5-difluoro-phenyl)-ethanol | 2.4 mmol, 500 mg | FC1=C(C=C(C=C1)F)CCO | C8H8F2O
reactant | 2,6-di-tert-butylpyridin | 3.6 mmol, 820 μl | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | silver trifluoromethanesulfonate | 2.7 mmol, 685 mg | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | [2-(2,5-difluoro-phenyl)-ethoxy]-acetic acid ethyl ester | 1.3 mmol, 320 mg, 54% | C(C)OC(COCCC1=C(C=CC(=C1)F)F)=O | C12H14F2O3
